US08193236B2
2-(5-Dimethylaminomethyl-2-methyl-benzofuran-3-yl)-acetamide
A solution of (5-dimethylaminomethyl-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester (744 mg, 2.70 mmol) in a mixture of methanol (5 mL) and liquid ammonia (40 mL) is stirred for 3 days in an autoclave at 70° C. After careful evaporation of the ammonia, the remaining solvent is evaporated in vacuo to afford the title compound as beige solid (662 mg, 2.42 mmol, 90%). 1H NMR (400 MHz, DMSO-d6, 298 K): δ=7.48 (bs, 1H), 7.42 (s, 1H), 7.36 (d, J=8.6 Hz, 1H), 7.11 (d, J=8.6 Hz, 1H), 6.93 (bs, 1H), 3.45 (s, 2H), 3.38 (s, 2H), 2.38 (s, 3H), 2.15 (s, 6H).MS (ES+): 247 (M(C16H14O4)+H)+.

reactant | (5-dimethylaminomethyl-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester | 2.70 mmol, 744 mg | C(C)OC(CC1=C(OC2=C1C=C(C=C2)CN(C)C)C)=O | C16H21NO3
reactant | ammonia | 40 mL | N | H3N
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5-Dimethylaminomethyl-2-methyl-benzofuran-3-yl)-acetamide | 2.42 mmol, 662 mg, 90% | CN(C)CC=1C=CC2=C(C(=C(O2)C)CC(=O)N)C1 | C14H18N2O2
